US09233979B2
Step 3: Synthesis of 3-N,N-bis(4-methoxybenzyl)-1-trityl-1H-pyrazolo[4,3-c]pyridine-3,6-diamine
To a solution of (3-(bis(4-methoxybenzyl)amino)-1-trityl-1H-pyrazolo[4,3-c]pyridin-6-yl)carbamate (0.4 g, 0.55 mmol) in THF (8 mL) was added TBAF (1.0 M solution in THF, 10 mL) and the contents were heated to reflux. After 12 h, the reaction was cooled back to ambient temperature, quenched with 1N HCl (5 mL) and stirred at ambient temperature for 1 h. The reaction mixture was further diluted with EtOAc (25 mL) and the organic layer was separated. The organic layer was washed with brine (1×20 mL), dried over anhydrous Na2SO4 and the solvents were removed under reduced pressure. The residue thus obtained was purified by a filter column to afford the title compound. MS ES calc'd. for C41F137N5O2 [M+H]+ 632. Found 632.

reactant | (3-(bis(4-methoxybenzyl)amino)-1-trityl-1H-pyrazolo[4,3-c]pyridin-6-yl)carbamate | 0.55 mmol, 0.4 g | COC1=CC=C(CN(C2=NN(C3=C2C=NC(=C3)NC([O-])=O)C(C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)CC3=CC=C(C=C3)OC)C=C1
reactant | TBAF | 1.0 M, 10 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | 3-N,N-bis(4-methoxybenzyl)-1-trityl-1H-pyrazolo[4,3-c]pyridine-3,6-diamine | COC1=CC=C(CN(C2=NN(C3=C2C=NC(=C3)N)C(C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)CC3=CC=C(C=C3)OC)C=C1 | C41H37N5O2
